US08912200B2
Step 10: 5-[2-Amino-5-({4-[(4-methylpiperazin-1-yl)carbonyl]phenyl}ethynyl)pyrimidin-4-yl]-2-(5-chloro-2-methylphenyl)-1H-pyrrole-3-carboxamide
Trifluoroacetic acid (1.4 mL) was added to a solution of 5-[2-amino-5-({4-[(4-methylpiperazin-1-yl)carbonyl]phenyl}ethynyl)pyrimidin-4-yl]-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxamide (0.110 g, 0.14 mmol) in dry DCM (2.8 mL) and stirred for 4 h at room temperature. After solvent removal, the residue was treated with EtOH (3 mL), 33% NH4OH (0.4 mL) and stirred for 0.5 h. The solvent was evaporated to dryness and the residue was purified by flash-chromatography on silica gel (DCM/MeOH/7N NH3 in MeOH 94/5/1) to afford the title compound as white solid (0.055 g, 71%).

reactant | Trifluoroacetic acid | 1.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-[2-amino-5-({4-[(4-methylpiperazin-1-yl)carbonyl]phenyl}ethynyl)pyrimidin-4-yl]-2-(5-chloro-2-methylphenyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrole-3-carboxamide | 0.14 mmol, 0.110 g | NC1=NC=C(C(=N1)C1=CC(=C(N1COCC[Si](C)(C)C)C1=C(C=CC(=C1)Cl)C)C(=O)N)C#CC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C36H42ClN7O3Si
solvent | DCM | 2.8 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-Amino-5-({4-[(4-methylpiperazin-1-yl)carbonyl]phenyl}ethynyl)pyrimidin-4-yl]-2-(5-chloro-2-methylphenyl)-1H-pyrrole-3-carboxamide | 0.055 g, 71% | NC1=NC=C(C(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)N)C#CC1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C30H28ClN7O2
